US09227978B2
2-((2-(4-(1-Acryloylazetidin-3-yl)piperazin-1-yl)-2-oxoethyl)amino)-5-chloro-4-cyclopropylbenzonitrile (V-71)
A mixture of 2-((2-(4-(1-acryloylazetidin-3-yl)piperazin-1-yl)-2-oxoethyl)amino)-5-chloro-4-cyclopropylbenzamide (3 0 mg, 0.067 mmol) and Et3N (41 mg, 0.404 mmol) in DCM (10 mL) at RT, trifluoroacetic anhydride (56 mg, 0.268 mmol) was added. The resulting mixture was stirred at RT for 0.5 h, poured into water and then extracted with dichloromethane. The organic layer was washed with brine, dried over Na2SO4 and concentrated. The residue was purified by flash column chromatography on silica gel (1-4% methanol/dichloroethane) to afford the desired product (20 mg, 72% yield). 1H NMR (400 MHz, DMSO-d6) δ: 7.60 (s, 1H), 6.34-6.30 (m, 1H), 6.27 (s, 1H), 6.12-6.07 (m, 1H), 6.01-5.99 (t, J=4 Hz, 1H), 5.69-5.65 (m, 1H), 4.26-4.22 (m, 1H), 4.07-4.04 (m, 3H), 3.96-3.92 (m, 1H), 3.80-3.76 (m, 1H), 3.53-3.51 (m, 4H), 3.19-3.13 (m, 1H), 2.45-2.30 (m, 4H), 2.16-2.09 (m, 1H), 1.08-1.03 (m, 2H), 0.87-0.80 (m, 2H). ESI-MS m/z: 428.4[M+H]+.

reactant | 2-((2-(4-(1-acryloylazetidin-3-yl)piperazin-1-yl)-2-oxoethyl)amino)-5-chloro-4-cyclopropylbenzamide | 0.067 mmol, 0 mg | C(C=C)(=O)N1CC(C1)N1CCN(CC1)C(CNC1=C(C(=O)N)C=C(C(=C1)C1CC1)Cl)=O | C22H28ClN5O3
reactant | Et3N | 0.404 mmol, 41 mg | CCN(CC)CC | C6H15N
reactant | trifluoroacetic anhydride | 0.268 mmol, 56 mg | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | water | O | H2O
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 2-((2-(4-(1-Acryloylazetidin-3-yl)piperazin-1-yl)-2-oxoethyl)amino)-5-chloro-4-cyclopropylbenzonitrile | 20 mg, 72% yield | C(C=C)(=O)N1CC(C1)N1CCN(CC1)C(CNC1=C(C#N)C=C(C(=C1)C1CC1)Cl)=O | C22H26ClN5O2
